US06982348B2
To a solution of (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid (3.75 g, 11.0 mmol) in tetrahydrofuran (70 ml) were added diphenylphosphoryl azide (2.6 ml, 12.1 mmol) and triethylamine (2.30 ml, 16.4 mmol) and the mixture was heated under reflux for 3 hrs. The reaction solution was diluted with water (300 ml), and extracted with ethyl acetate (200 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:1) and recrystallized from ethyl acetate-hexane to give (4RS,5RS)-5-(4-fluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (3.28 g, 88%).

reactant | (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid | 11.0 mmol, 3.75 g | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC=C(C=C1)C(F)(F)F)O | C17H14F4O3
reactant | diphenylphosphoryl azide | 12.1 mmol, 2.6 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 16.4 mmol, 2.30 ml | C(C)N(CC)CC | C6H15N
reactant | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | (4RS,5RS)-5-(4-fluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 3.28 g, 88% | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C17H13F4NO2
